US09447091B2
a) 1-(5-(5-(6-(benzyloxy)pyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-3-cyclopropyl sulfuric diamide
To a solution of 5-(5-(6-(benzyloxy)-1,6-dihydropyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine (120 mg, 0.2380 mmol) in pyridine was added N-cyclopropyl-2-oxooxazolidine-3-sulfonamide (78 mg, 0.380 mmol, 1.6 eq.). The mixture was stirred at 50° C. for 16 h, quenched with water and extracted with ethyl acetate (3×50 ml). The combined organic layer was washed with 1 N HCl and 1N NaOH, water, brine and dried over sodium sulphate. The solvent was distilled off to afford the crude residue which was purified by preparative HPLC to give the product in 10% yield (15 mg).

reactant | 5-(5-(6-(benzyloxy)-1,6-dihydropyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-amine | 0.2380 mmol, 120 mg | C(C1=CC=CC=C1)OC1C=CC(=CN1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)N)C=C1 | C31H24F2N4O
reactant | N-cyclopropyl-2-oxooxazolidine-3-sulfonamide | 0.380 mmol, 78 mg, 1.6 eq. | C1(CC1)NS(=O)(=O)N1C(OCC1)=O | C6H10N2O4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(5-(5-(6-(benzyloxy)pyridin-3-yl)-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-3-cyclopropyl sulfuric diamide | 10% yield | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)C2CC2NS(N)(=O)=O)C=C1 | C34H27F2N5O3S
